Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Abdominal Pain
 
Major Surgical or Invasive Procedure:
ERCP with spincterotomy and baloon extraction of biliary sludge 
___

 
History of Present Illness:
___ MEDICINE ATTENDING ADMISSION NOTE .

 

Date:  ___

Time: ___

_
________________________________________________________________

PCP: 
Dr. ___

_
________________________________________________________________
HPI: > or equal to 4 ( location, quality, severity, duration, 
timing, context, modifying factors, associated signs and sx)
The patient is a healthy female 4 months post partum who 
presents with gradually worsening of a cute onset of band like 
___ pain which began 2 days ago after eating.  The second time 
she has a sudden attack of abdominal pain which occurred while 
washing the baby bottles.  Both of her parents are physicians 
and they gave her atropine which I proved the pain. Mild nausea. 
 No emesis.  No fevers or chills.  
+ URI sx during the past week.
Currently without pain.  She has not had had a change in her 
bowel habits.  Since having the baby she stools once every three 
days but does not feel constipated.  She does eat a lot of meat 
and admits to eating fatty foods.
In ER: (Triage Vitals: ) 
Meds Given: ciprofloxacin 400 mg IV 0115 am, 
Fluids given: 1 LNS hung
Radiology Studies: US on day of presentation
consults called: surgery who referred patient to ___

.

PAIN SCALE: ___ location:

________________________________________________________________
REVIEW OF SYSTEMS: 10 or 2 with "all otherwise negative"
CONSTITUTIONAL:        [] All Normal
[ ] Fever  [ ] Chills   [ ] Sweats  [ ] Fatigue   [ ] Malaise   
[ ]Anorexia  [ ]Night sweats
[ ] _____ lbs.    weight  loss/gain     over _____ months

Eyes

        [] All Normal
[ ] Blurred vision   [ ] Loss of vision [] Diplopia [ ] 
Photophobia

 

ENT

[ ] Dry mouth  [ ] Oral ulcers [ ] Bleeding gums [ ] Sore throat 
   [] Sinus pain [ ] Epistaxis  [ ] Tinnitus
[ ] Decreased hearing    [ ] Other:

RESPIRATORY:    [] All Normal
[ ] Shortness of breath      [ ] Dyspnea on exertion [ ] Can't 
walk 2 flights     [ ] Cough [ ] Wheeze  [ ] Purulent sputum    
[ ] Hemoptysis   [ ]Pleuritic pain 
[ ] Other:

CARDIAC:        []  All Normal
[ ] Palpitations   [ ] Edema   [ ] PND [ ] Orthopnea    [ ] 
Chest Pain [ ] Dyspnea on exertion [ ] Other:

GI:             [] All Normal
[ ] Nausea  [] Vomiting   []  Abd pain  [] Abdominal swelling [ 
] Diarrhea    [ ] Constipation  [ ] Hematemesis 

[ ] Blood in stool     [ ] Melena [ ] Dysphagia:   [ ] Solids    
[ ] Liquids     [ ] Odynophagia  [ ] Anorexia    [ ] Reflux
[ ] Other:

GU:             [] All Normal
[ ] Dysuria      [ ] Incontinence or retention  [ ] Frequency    
[ ] Hematuria  []Discharge []Menorrhagia  

SKIN:           [] All Normal
[ ] Rash        [ ] Pruritus

MS:             [] All Normal
[ ] Joint pain    [ ] Jt swelling   [ ] Back pain  [ ] Bony pain

NEURO:          [] All Normal
[ ] Headache    [ ] Visual changes   [ ] Sensory change [ 
]Confusion [ ]Numbness of extremities
[ ] Seizures   [ ] Weakness [ ] Dizziness/Lightheaded [ ]Vertigo 
[ ] Headache

ENDOCRINE:     [] All Normal
[ ] Skin changes  [ ] Hair changes   [ ] Heat or cold 
intolerance [ ] loss of energy

HEME/LYMPH:    [] All Normal
[ ] Easy bruising   [ ] Easy bleeding    [ ] Adenopathy

PSYCH:         [] All Normal
[ ] Mood change        []Suicidal Ideation  [ ] Other:  

 

ALLERGY:

[ ]Medication allergies  [ ] Seasonal allergies

[]all other systems negative except as noted above 
________________________________________________________________

 
Past Medical History:
S/ p C section on ___.
 
Social History:
SOCIAL HISTORY/ FUNCTIONAL STATUS: I< ___
Researcher but she has not gone back to work since having the 
baby.  Light smoker while in college but quit smoking in her 
twenties.  No ETOH.
She lives with her parents who are here helping her. 
Cigarettes: [ ] never  [ ] ex-smoker   [x] current Pack-yrs: 10
                       quit: ______
ETOH:       [x] No   [ ] Yes     drinks/day: _____
Drugs: none
Occupation: ___
Marital Status: [ ] Married  [] Single
Lives:          [ ] Alone    [] w/ family  [ ] Other:

Received influenza vaccination in the past 12 months [ ]Y [ ]N

Received pneumococcal vaccinationin the past 12 months [ ]Y [ ]N

 

 

>65

ADLS:

Independent of ADLS: [ ]dressing  [ ]ambulating [ ]hygiene [ 
]eating  [ ]toileting  

Requires assitance with:  [ [ ]dressing  [ ]ambulating [ 
]hygiene [ ]eating  [ ]toileting  

 

IADLS: 

Independent of IADLS: [ ]shopping [ ] accounting [ ]telephone 
use [ ]food preparation  
Requires assitance with IADLS:  [ ]shopping [ ] accounting [ 
]telephone use [ ]food preparation  

 

[ ]has pre-existent home care services  
At baseline walks: [ ]independently [ ] with a cane [ ]wutwalker 
[ ]wheelchair at ___  
H/o fall within past year: []Y  []N
Visual aides  [ ]Y [ ]N
Dentures  [ ]Y [ ]N
Hearing Aides  [ ]Y [ ] N

 
Family History:
Borderline DM.  No family history of gallstones or stomach 
disorders.
 
Physical Exam:
PHYSICAL EXAM:  I3 - PE >8

VITAL SIGNS: 

GLUCOSE: 

PAIN SCORE

1. VS:T 97.3, P = 57 BP = 116/85 RR 16  O2Sat on  _98% on RA___  
liters O2  
GENERAL:  Female sitting up in bed pumping. She is in no acute 
distress. She is very pleasant 
Nourishment: good
Grooming: good  
Mentation: good  
2. Eyes: [] WNL 

PERRL, EOMI without nystagmus, Conjunctiva: + injection + 
icterus
3. ENT [X] WNL

[] Moist  [] Endentulous  [] Ulcers  [] Erythema  [] JVD ____ cm

[] Dry  [] Poor dentition  [] Thrush  [] Swelling  [] Exudate

4. Cardiovascular [X] WNL

[] Regular  [] Tachy  [] S1 [] S2 [] Systolic Murmur     /6, 
Location:

[] Irregular  []Brady []S3  [] S4  [] Diastolic Murmur    /6, 
Location:

[X] Edema RLE  None   [] Bruit(s), Location:

[X] Edema LLE None [] PMI

[] Vascular access  [] Peripheral [] Central site:

5. Respiratory [ X]WNL

[] CTA bilaterally  [ ] Rales  [ ] Diminshed

[] Comfortable     [ ] Rhonchi   [ ] Dullness

[ ] Percussion WNL  [ ] Wheeze   [] Egophony

6. Gastrointestinal [] WNL

[+] Soft [] Rebound [] No hepatomegaly  [] Non-tender [+] R 
sided epigastric tenderness with deep palpation [] No 
splenomegaly

[+] Non distended  [] distended  [] bowel sounds Yes/No  [] 
guiac: positive/negative

7. Musculoskeletal-Extremities [X] WNL

[ ] Tone WNL  [ ]Upper extremity strength ___ and symmetrical  [ 
]Other:

[ ] Bulk WNL    [] Lower extremity strength ___ and symmetrica [ 
] Other:

[] Normal gait  []No cyanosis  [ ] No clubbing  [] No joint 
swelling

8. Neurological [X] WNL

[ ] Alert and Oriented x 3 [ ] Romberg: Positive/Negative  [ ] 
CN II-XII intact  [ ] Normal attention  [ ] FNF/HTS WNL [] 
Sensation WNL  [ ] Delirious/confused  [ ] Asterixis 
Present/Absent  [ ] Position sense WNL

[ ] Demented  [ ] No pronator drift  [] Fluent speech

9. Integument  [X] WNL

[] Warm  [] Dry  [] Cyanotic [] Rash: 
none/diffuse/face/trunk/back/limbs  

[ ] Cool [] Moist  [] Mottled  [] Ulcer: 
None/decubitus/sacral/heel: Right/Left

10. Psychiatric [X] WNL

[] Appropriate [] Flat affect [] Anxious [] Manic [] Intoxicated 
[] Pleasant [] Depressed [] Agitated [] Psychotic 

[] Combative

11. Hematologic/Lymphatic  [X]WNL

[X] No cervical ___ [] 

12. Genitourinary [X] WNL

[ ] Catheter present [] Normal genitalia [ ] Other:

TRACH: []present [X]none  

PEG:[]present [X]none  [ ]site C/D/I 

COLOSTOMY: :[]present [X]none  [ ]site C/D/I 

 
Pertinent Results:
___ 11:45PM   GLUCOSE-81 UREA N-15 CREAT-0.6 SODIUM-140 
POTASSIUM-3.5 CHLORIDE-105 TOTAL CO2-23 ANION GAP-16
___ 11:45PM   estGFR-Using this
___ 11:45PM   ALT(SGPT)-970* AST(SGOT)-551* ALK PHOS-328* 
TOT BILI-3.2*
___ 11:45PM   ALBUMIN-4.8
___ 11:45PM URINE  HOURS-RANDOM
___ 11:45PM URINE  UCG-NEGATIVE
___ 11:45PM   WBC-4.3 RBC-4.37 HGB-13.1 HCT-38.2 MCV-87 
MCH-30.1 MCHC-34.4 RDW-13.5
___ 11:45PM   NEUTS-56.2 ___ MONOS-3.2 EOS-1.9 
BASOS-1.3
___ 11:45PM   PLT COUNT-163
___ 11:45PM   ___ PTT-40.7* ___
___ 11:45PM URINE  COLOR-AMBER APPEAR-Hazy SP ___
___ 11:45PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-30 
GLUCOSE-NEG KETONE-40 BILIRUBIN-MOD UROBILNGN-2* PH-6.5 LEUK-MOD
___ 11:45PM URINE  RBC-6* WBC-31* BACTERIA-NONE YEAST-NONE 
EPI-29 TRANS EPI-1
___ 11:45PM URINE  RBC-6* WBC-31* BACTERIA-NONE YEAST-NONE 
EPI-29 TRANS EPI-1
___ 11:45PM URINE  MUCOUS-MANY
___ 10:18AM   ALT(SGPT)-1235* AST(SGOT)-1084* ALK PHOS-293* 
AMYLASE-56 TOT BILI-4.1*
___ 10:18AM   LIPASE-38
___ 10:18AM   WBC-4.3 RBC-4.68 HGB-13.9 HCT-40.9 MCV-88 
MCH-29.7 MCHC-33.9 RDW-13.6
___ 10:18AM   PLT COUNT-170
___ 10:10AM URINE  COLOR-Brown APPEAR-Hazy SP ___
___ 10:10AM URINE  BLOOD-TR NITRITE-NEG PROTEIN-30 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-MOD UROBILNGN-2* PH-5.5 LEUK-SM 

___ 10:10AM URINE  RBC-<1 WBC-3 BACTERIA-FEW YEAST-NONE 
EPI-4 TRANS EPI-<1
___ 10:10AM URINE  CA OXAL-RARE
___ 10:10AM URINE  MUCOUS-MANY
--------------
ReportIMPRESSION: 
Choledocholithiasis with stone in the distal CBD and upstream 
CBD 
measuring up to 9 mm. 
Likely impacted stone in the gallbladder neck.  Mildly distended 
gallbladder with wall thickening and foci of ring-down within 
the anterior wall, consistent with adenomyomatosis. However in 
view of right upper quadrant tenderness, early acute 
cholecystitis cannot be 
excluded. 

___ 06:15AM BLOOD WBC-5.2 RBC-4.23 Hgb-12.1 Hct-36.0 MCV-85 
MCH-28.6 MCHC-33.6 RDW-13.8 Plt ___
___ 07:33AM BLOOD Neuts-55.6 ___ Monos-5.2 Eos-2.7 
Baso-0.6
___ 06:15AM BLOOD ALT-373* AST-72* AlkPhos-217* TotBili-1.1
___ 07:33AM BLOOD Calcium-8.1* Phos-3.4 Mg-2.2
 
Brief Hospital Course:
The patient is a ___ y.o. G2P1 female 4 months s/p C section 
delivery who presents with epigastric pain and is found to have 
dilated common bile duct and evidence of possible early 
cholecystitis on abdominal ultrasond and elevated ALT/AST, alk 
phos and bilirubin.  She was followed both by general surgery 
and the advanced endoscopy service.  She underwent ERCP with 
sphincterotomy and fining of sludge in the CBD that was removed 
with balloon sweep.  She tolerated the procedure well.  The 
patient along with surgery decided to have an elective 
cholecystectomy after a period of weeks of recovery at home.  
She will contact the surgery office to schedule a two week f/u 
visit and then plan on surgery in approx 6 weeks. 

During this admission she also received IV antibiotics including 
zosyn, which was discontinued at discharge.  She received cipro 
in the ED and dumped her breast milk 48hr after this and also 
dumped her breast milk for 24h after receiving anesthesia for 
her ERCP.

She tolerated a regular meal and had no abdominal pain on the 
day of discharge. Her LFTs also substantiall improved following 
the ERCP.

 
Medications on Admission:
No medications
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
CHOLESTASIS
BILIARY SLUDGE WITH OBSTRUCTION

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were hospitalized with a dilated common bile duct caused by 
biliary sludge.  This was treated with a procedure called a ERCP 
with a sphincterotomy (small cut) in opening of bile duct to 
help clear bile/sludge.

You are recommended to followup with the general surgery service 
at ___ to have a gall bladder operation (cholecystectomy).

MEDICATION CHANGES
Please do not take NSAID (aleve, ibuprofen) for 7 d following 
the sphincterotomy/ERCP procedure
It is now safe for you to breast feed
You can take tylenol for pain as needed (do not take more than 4 
grams/day)

TRANSITIONAL ISSUES
[]ARRANGE DATE FOR SURGICAL CLINIC APPOINTMENT AND DATE FOR 
SURGERY
[]REPEAT LFTS AS AN OUTPATIENT
 
Followup Instructions:
___